US07776857B2
3-Bromo-5-methoxypyridine (15 g) was added to a pressure vessel, and CuSO4(3.9 g) and 25% aq. ammonia (150 mL) were added. The reaction mixture was stirred for 4 h at 135° C., then cooled to RT, basified with aqueous NaOH solution, and extracted with CH2Cl2. After evaporation of volatiles, 3-amino-5-methoxypyridine was obtained as yellow solid.

reactant | 3-Bromo-5-methoxypyridine | 15 g | BrC=1C=NC=C(C1)OC | C6H6BrNO
reactant | NaOH | [OH-].[Na+]
reactant | ammonia | 150 mL | N | H3N
catalyst | CuSO4 | 3.9 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 3-amino-5-methoxypyridine | NC=1C=NC=C(C1)OC | C6H8N2O
